US06953790B2
Step B. (3R,6S)-3-Amino-6-(2,3-difluorophenyl)-1-(1,3-thiazol-2-ylmethyl)azepan-2-one
A solution of di-tert-butyl [(3R,6S)-6-(2,3-difluorophenyl)-2-oxo-1-(1,3-thiazol-2-ylmethyl)azepan-3-yl]imidodicarbonate (0.481 g, 0.895 mmol) in DCM (10 mL) was treated with trifluoroacetic acid (3 mL). After 1 h the reaction was diluted with saturated aqueous sodium bicarbonate, the layers separated, and the aqueous phase extracted with DCM (2×). The organic washes were combined, dried over magnesium sulfate, and concentrated to afford the title compound (0.30 mg). MS 338.2 (M+1).

reactant | di-tert-butyl [(3R,6S)-6-(2,3-difluorophenyl)-2-oxo-1-(1,3-thiazol-2-ylmethyl)azepan-3-yl]imidodicarbonate | 0.895 mmol, 0.481 g | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(N(C1)CC=1SC=CN1)=O)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C26H33F2N3O5S
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | (3R,6S)-3-Amino-6-(2,3-difluorophenyl)-1-(1,3-thiazol-2-ylmethyl)azepan-2-one | 0.30 mg | N[C@H]1C(N(C[C@@H](CC1)C1=C(C(=CC=C1)F)F)CC=1SC=CN1)=O | C16H17F2N3OS
